US09034850B2
Step B. 4-(3-{4-[3-((R)-2-tert-butoxycarbonylamino-2-phenyl-ethyl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-piperazin-1-ylmethyl}-benzoylamino)-butyric acid ethyl ester
To a solution of 3-{4-[3-((R)-2-tert-butoxycarbonylamino-2-phenyl-ethyl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-piperazin-1-ylmethyl}-benzoic acid (40 mg, 0.0541 mmol) and 4-amino-butyric acid ethyl ester chloride (19 mg, 0.108 mmol) in DMF (0.5 mL) was added N,N-diisopropylethylamine(38 μl, 0.216 mmol), after which HBTU (51 mg, 0.162 mmol) was added to the solution, with stirring. The solution was concentrated at room temperature for 6 hrs, with stirring. The residue was diluted in EtOAc and washed with an aqueous saturated sodium bicarbonate solution, an aqueous saturated ammonium chloride solution, and an aqueous saturated sodium chloride solution in that order. After being separated, the organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified using silica gel chromatography (eluent: dichloromethane/methanol, 30/1) and dried in a vacuum to afford 46 mg of the compound as a yellowish solid (yield 99%). 1H NMR (300 MHz, CDCl3) δ 1.24 (3H, t), 1.34 (9H, s), 1.98 (2H, pentet), 2.31 (2H, m), 2.34 (3H, s), 2.44 (2H, t), 2.53 (2H, m), 2.82 (2H, m), 3.53 (2H, q), 3.64 (4H, m), 4.06 (1H, m), 4.12 (2H, q), 4.24 (1H, t), 5.00 (1H, m), 5.45 (2H, dd), 5.78 (1H, m), 6.30 (0.2H, t), 6.77 (0.8H, t), 7.20-7.41 (8H, m), 7.53 (2H, t), 7.83 (1H, d), 7.71 (1H, d), 7.75 (1H, s)

reactant | 3-{4-[3-((R)-2-tert-butoxycarbonylamino-2-phenyl-ethyl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-piperazin-1-ylmethyl}-benzoic acid | 0.0541 mmol, 40 mg | C(C)(C)(C)OC(=O)N[C@@H](CN1C(N(C(=C(C1=O)N1CCN(CC1)CC=1C=C(C(=O)O)C=CC1)C)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=CC=CC=C1 | C38H41F4N5O6
reactant | 4-amino-butyric acid ethyl ester chloride | 0.108 mmol, 19 mg | [Cl-].C(C)OC(CCCN)=O
reactant | N,N-diisopropylethylamine | 0.216 mmol, 38 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.162 mmol, 51 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(3-{4-[3-((R)-2-tert-butoxycarbonylamino-2-phenyl-ethyl)-1-(2-fluoro-6-trifluoromethyl-benzyl)-6-methyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-piperazin-1-ylmethyl}-benzoylamino)-butyric acid ethyl ester | 46 mg, yield 99% | C(C)OC(CCCNC(C1=CC(=CC=C1)CN1CCN(CC1)C=1C(N(C(N(C1C)CC1=C(C=CC=C1C(F)(F)F)F)=O)C[C@@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O)=O | C44H52F4N6O7
